Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Reglan
 
Attending: ___.
 
Chief Complaint:
nausea, limited po intake
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G2P1 at ___ who presents as a direct admission for n/v. 
Pt reports symptoms started on ___. She's been very nauseous 
and having a hard time drinking fluids. She vomited once 2 
nights ago, but also with dry heaves. She hasn't been taking 
anything for nausea at home, but got Zofran in triage yesterday. 
She also reports diarrhea for 2 days. No sick contacts. Denies 
fevers/chills. Woke up at 3am feeling shaky, but not vomiting. 
She's been having intermittent ctxs, but her cervix was 
unchanged yesterday (2cm). She denies LOF or VB. No painful ctxs 
currently. Feeling fetal movement, but its been less since these 
symptoms started. Pt also c/o a small "lump" under her skin 
above superior aspect of uterus. States it feels like a bruise.

On arrival to 6S, pt tolerated ___ of a grilled cheese sandwich, 
a can of ginger ale, and some water.

 
Past Medical History:
PNC: 
- ___ ___ by ___ c/w ___ trimester U/S
- Labs Rh pos/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg/GBS PND
- Screening - Aneuploidy screening: abnl Panorama - ___ 46XY
- FFS - wnl
- GLT - screened with FBS fasting and 1hr PP x 1wk - wnl
- U/S -  ___: ant placenta, nl AF, 2143g (60%), cephalic
- Issues
 - She is known ___ carrier, but couple have elected not to
have FOB tested
 - h/o gastric bypass - getting growth scans q4wk
 - h/o admission and beta on ___ and ___ for PTL with change to
1-2cm/50.

OB Hx:
- G1 SVD - IOL 37wk for persistent DFM, 2970g
- G2 current

GYN Hx - due for repeat pap postpartum. No known h/o fibroids,
STIs.

PMH: 
- h/o recurrent c. diff
- h/o anemia requiring IV iron

Past Surgical Hx:
- gastric bypass (cannot have NSAIDs)
- cholecystectomy
 
Physical Exam:
On admission:
VS: 97.9, 110/73, 81, 18, O2 98%
Gen: NAD
Abd: soft, gravid, NT. unable to palpate lump under skin 
SVE: deferred ___ on ___
U/S: vtx, MVP 4.8, BPP ___

On discharge:
Vitals stable; see flowsheet
Gen: NAD
Abd: soft, nondistended. Fundus firm ___ FW below umbilicus
Perineum: scant lochia, no excessive edema/ecchymosis
Ext: no calf tenderness; trace edema
 
Pertinent Results:
___ BLOOD WBC-9.9 RBC-3.85* Hgb-10.7* Hct-32.9* MCV-86 
MCH-27.8 MCHC-32.5 RDW-13.6 RDWSD-42.4 Plt ___
___ BLOOD Glucose-120* UreaN-3* Creat-0.6 Na-137 K-3.9 
Cl-100 HCO3-20* AnGap-17

___ URINE Blood-TR* Nitrite-NEG Protein-30* Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-LG*
___ URINE RBC-21* WBC-138* Bacteri-MANY* Yeast-NONE Epi-___ y/o G2P1 admitted at 36w5d with nausea, vomiting, and minimal 
po intake. On admission, she was overall well-appearing and had 
reassuring fetal testing. She was treated with supportive care 
and her nausea improved. In regards to her decreased fetal 
movement, ultrasound in the ___ was reassuring on HD#2, and she 
continued to have reactive NSTs. The decision was made to 
proceed with induction at 37 weeks given her persistent 
decreased fetal movement. She received 1 Cytotec followed by 
Pitocin and had an uncomplicated SVD on ___ and delivered a 
liveborn male weighing 3455 grams with Apgars of 9 and 9. She 
had an uncomplicated postpartum course and was discharged home 
on PPD#2.
 
Medications on Admission:
Tylenol, PNV
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain  
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
3.  OxyCODONE (Immediate Release) 5 mg PO ONCE Duration: 1 Dose 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6hr Disp #*5 Tablet 
Refills:*0 
4.  Prenatal Vitamins 1 TAB PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vaginal birth
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Pelvic rest
 
Followup Instructions:
___